US06114333
N-(3,5-Dimethylphenyl)-4-(2-(piperazin-1-yl)pyridin-5-yl)-2-pyrimidineamine bistrifluoroacetate
The pyridine intermediate was prepared by treating a suspension of 5-bromo-2-(piperazin-1-yl)pyridine (7.0 g, 28.9 mmol) with di-tert-butyldicarbonate (6.30 g, 28.9 mmol) and the resulting mixture stirred for 2 h. The solvent was removed under reduced pressure to give the desired product (8.76 g as a beige solid after recrystallisation from aqueous ethanol, m.p. 88-90°. δH (CDCl3) 8.18 (1 H, d, J 2.5 Hz), 7.52 (1H, dd, J 9.0, 2.5 Hz), 6.52 (1H, d, J 9.0 Hz), 3.50 (8H, m) and 1.47 (9H, s). The 5-bromo-2-(piperazin-1-yl)pyridine was prepared by heating a mixture of 2,5-dibromopyridine (10.0 g, 42.4 mmol) and piperazine (7.98g, 92.8 mmol) as a melt at 125° for 3 h. On cooling to room temperature the mixture was triturated with methanol-dichloromethane to afford the desired product (7.0g) as a beige solid. δH (CDCl3) 8.18 (1H, d, J 2.1 Hz), 7.25 (1H, dd, J 9.1, 2.1 Hz), 6.52 (1H, d, J 9.1 Hz), 3.47 (4H, m), 2.97 (4H, m) and 1.75 (1H br s).

reactant | 2,5-dibromopyridine | 42.4 mmol, 10.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | piperazine | 92.8 mmol, 7.98g | N1CCNCC1 | C4H10N2
product | 5-bromo-2-(piperazin-1-yl)pyridine | BrC=1C=CC(=NC1)N1CCNCC1 | C9H12BrN3
